US08466282B2
2-(trichloromethyl)-1H-benzimidazole
O-Phenylenediamine (25 g) was dissolved in acetic acid (750 ml), and methyl 2,2,2-trichloroacetimidate (28.5 ml) was added dropwise over 15 min. After stirring at room temperature for 1 hr, the reaction mixture was concentrated to about 150 ml, and poured into water (1500 ml). The precipitated crystals were collected by filtration, washed with water (1000 ml) and suspended in toluene (500 ml). The solvent was evaporated under reduced pressure. The residue was again suspended in toluene (500 ml) and the solvent was evaporated under reduced pressure. The residue was dried under reduced pressure to give the object product (51.8 g).

reactant | O-Phenylenediamine | 25 g | [2H]C1=C(C(=C(C(=C1[2H])N)N)[2H])[2H] | C6H8N2
reactant | methyl 2,2,2-trichloroacetimidate | 28.5 ml | ClC(C(OC)=N)(Cl)Cl | C3H4Cl3NO
solvent | acetic acid | 750 ml | C(C)(=O)O | C2H4O2
product | 2-(trichloromethyl)-1H-benzimidazole | 51.8 g | ClC(C1=NC2=C(N1)C=CC=C2)(Cl)Cl | C8H5Cl3N2
